US07662779B2
The alkyne of the current example, 2-(2-thiazolyl)-4-methoxyphenylacetylene was prepared by adding to a degassed solution of 4 mmol of 4-ethynylanisole, 4 mmol of 2-bromothiazole, and 1 ml of triethylamine in 10 ml of acetonitrile, 140 mg (0.2 mmol) of PdCl2(PPh3)2 and 19 mg(0.1 mmol) of CuI. The mixture was degassed and stirred for 5 minutes at RT and heated to 90° C. for 12 hours. The reaction mixture was concentrated in vacuo and purified by silica column to afford 0.61 g of brown liquid in a 70% yield.

reactant | 4-ethynylanisole | 4 mmol | C(#C)C1=CC=C(C=C1)OC | C9H8O
reactant | 2-bromothiazole | 4 mmol | BrC=1SC=CN1 | C3H2BrNS
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | PdCl2(PPh3)2 | 0.2 mmol, 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.1 mmol, 19 mg | [Cu]I
product | 2-(2-thiazolyl)-4-methoxyphenylacetylene | 70% yield | S1C(=NC=C1)C1=C(C=CC(=C1)OC)C#C | C12H9NOS
